### PR TITLE
[Merged by Bors] - feat: quasi-isomorphisms of short complexes

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/ShortComplex/QuasiIso.lean [hunk 1]
```diff
@@ -0,0 +1,213 @@
...
+
+lemma quasiIso_comp' (φ : S₁ ⟶ S₂) (φ' : S₂ ⟶ S₃) (hφ : QuasiIso φ) (hφ' : QuasiIso φ') :
+    QuasiIso (φ ≫ φ') := by
+  rw [quasiIso_iff] at hφ hφ' ⊢
+  rw [homologyMap_comp]
+  infer_instance
+
+instance quasiIso_comp (φ : S₁ ⟶ S₂) (φ' : S₂ ⟶ S₃) [QuasiIso φ] [QuasiIso φ'] :
+    QuasiIso (φ ≫ φ') :=
+  quasiIso_comp' φ φ' inferInstance inferInstance
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/ShortComplex/QuasiIso.lean:55]: You are essentially duplicating every instance as a lemma. But since Lean 4 permits named variables, I wonder whether it is enough to just provide the instances and give nice names to the instance variables:
```suggestion
instance quasiIso_comp (φ : S₁ ⟶ S₂) (φ' : S₂ ⟶ S₃) [hφ : QuasiIso φ] [hφ' : QuasiIso φ'] :
    QuasiIso (φ ≫ φ') := by
  rw [quasiIso_iff] at hφ hφ' ⊢
  rw [homologyMap_comp]
  infer_instance
```
This can then be used as `quasiIso_comp φ φ' (hφ := foo) (hφ' := bar)` when needed.

Comment (joelriou) [reply Mathlib/Algebra/Homology/ShortComplex/QuasiIso.lean]: Thanks! I have struggled a little bit with the syntax to make this work downstream, but it works. (It seems the exact syntax would be `quasiIso_comp (hφ := foo) (hφ' := bar)` because from the type of `hφ`, Lean would find the type of `φ`!)

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
